US08859591B2
To a solution of 1-(4-methoxyphenyl)-1H-pyrazole-4-carbonitrile (115 mg, 0.575 mmol) in dichloromethane (5 mL) was added boron tribromide (431 mg, 1.73 mmol) at −10° C. The reaction was then warmed to room temperature and stirred for 16 hours. The reaction was quenched with methanol (0.5 mL) and water (5 mL), and extracted with ethyl acetate (3×15 mL). The combined organics were washed with brine (15 mL), dried over sodium sulfate, filtered and concentrated to give 1-(4-hydroxyphenyl)-1H-pyrazole-4-carbonitrile (46 mg, 43%) as a yellow solid. 1H NMR (400 MHz, CDCl3, δ): 9.89 (s, 1H), 9.12 (s, 1H), 8.27 (s, 1H), 7.62 (d, J=9.2 Hz, 2H), 6.90 (d, J=9.2 Hz, 2H).

reactant | 1-(4-methoxyphenyl)-1H-pyrazole-4-carbonitrile | 0.575 mmol, 115 mg | COC1=CC=C(C=C1)N1N=CC(=C1)C#N | C11H9N3O
reactant | boron tribromide | 1.73 mmol, 431 mg | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 1-(4-hydroxyphenyl)-1H-pyrazole-4-carbonitrile | 46 mg, 43% | OC1=CC=C(C=C1)N1N=CC(=C1)C#N | C10H7N3O
